US09422240B2
4-(Cyclobutylmethoxy)benzaldehyde
To a suspension of sodium hydride (60% dispersion in mineral oil, 0.328 g) in N,N-dimethylformamide (15.0 mL), a solution of 4-hydroxybenzaldehyde (1.00 g) in N,N-dimethylformamide (5.00 mL) was added at 0° C. and thereafter the mixture was stirred at room temperature for 30 minutes. After adding (bromomethyl)cyclobutane (1.22 g), the mixture was stirred at 70° C. for 24 hours. After cooling the reaction mixture to room temperature, 0.5 mol/L hydrochloric acid was added under cooling with ice and three extractions were conducted with ethyl acetate. The combined organic layers were passed through a phase separator and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5-40:60) to give the titled compound as a colorless oil (1.19 g).

reactant | sodium hydride | 0.328 g | [H-].[Na+]
reactant | 4-hydroxybenzaldehyde | 1.00 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | (bromomethyl)cyclobutane | 1.22 g | BrCC1CCC1 | C5H9Br
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 15.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5.00 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(Cyclobutylmethoxy)benzaldehyde | 1.19 g | C1(CCC1)COC1=CC=C(C=O)C=C1 | C12H14O2
